US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide
The titled compound is prepared as an off-white lyophilizated powder following Scheme 8 and in analogy to Example 1 using [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid as starting materials.

reactant | [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C1CNC=2C=NC3=CC=C(N=C3C2C1)OC)=O | C23H32N4O3
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide | COC=1N=C2C=3CC(CNC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)NC(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C27H29N5O3S
